US06194487B1
Next, the adipoyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 3 minutes. Consequently, adipoyl chloride condensed on the surface of the base particles. A polymerization reaction, using as a catalyst triethylamine contained in the base particles, took place between adipoyl chloride condensed on the surface of the base particles and 1,6-hexanediol contained therein, forming a film of 1,6-hexanediol-adipoyl chloride co-polymer on the surface of the base particles.

reactant | adipoyl chloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,6-hexanediol adipoyl chloride | C(CCCCCO)O.C(CCCCC(=O)Cl)(=O)Cl | InChI=1S/C6H8Cl2O2.C6H14O2/c7-5(9)3-1-2-4-6(8)10;7-5-3-1-2-4-6-8/h1-4H2;7-8H,1-6H2
